US06632858B1
Step 4) 2,8-Dihydroxy naphthalene-6-sulfonic acid (263 parts), sodium hydrogen sulphite (259 parts), water (900 parts) and 1,8-diaminooctane (400 parts) were stirred at 80° C. for 20 hours and then a further 20 hours at 95° C. The reaction was allowed to cool over night and filtered. The resultant filter cake was stirred in water (500 parts) and 2N sodium hydroxide (750 parts) for 15 minutes. 2N Hydrochloric acid (300 parts) was added and the precipitate filtered. The filter cake was dissolved in water (500 parts) and 2N sodium hydroxide (1000 parts) by heating to 50° C. 2N Hydrochloric acid was added and the precipitate filtered off at 40° C. The filter cake was oven dried at 70° C. to produce a naphthalene intermediate (111 parts).

reactant | 2,8-Dihydroxy naphthalene-6-sulfonic acid | OC1=CC2=C(C=C(C=C2C=C1)S(=O)(=O)O)O | C10H8O5S
reactant | sodium hydrogen sulphite | S(=O)(O)[O-].[Na+]
reactant | 1,8-diaminooctane | NCCCCCCCCN | C8H20N2
solvent | water | O | H2O
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
